** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/testbenches/xschem/nmos_current_mirror2_tb_dc.schm
**.subckt nmos_current_mirror2_tb_dc
VDD VDD GND {VDD}
Vgsp net1 GND 0
I0 GND net2 50u
vout1 net1 vin 0
.save i(vout1)
x1 vin net2 GND net3 nmos_current_mirror2
vout2 net1 net3 0
.save i(vout2)
**** begin user architecture code


.include ../../../netlist/pex/inverter_magic_pex_3.spice
.param VDD=3.3
.csparam VDD=VDD
.param Vcm=VDD/2
.csparam Vcm=Vcm
.param temp=27
.param Cload=10p
.param Rload=1k
.options savecurrents klu method=gear reltol=1e-3 abstol=1e-15 gmin=1e-15
.control

save all

* Operating Point Analysis
op
remzerovec
write nmos_current_mirror2_tb_dc.raw
set appendwrite

* DC Sweep
dc Vgsp 0 $&VDD 1m
remzerovec
write nmos_current_mirror2_tb_dc.raw
set appendwrite

* Plotting
plot i(vout1) i(vout2)
*plot vin

* Measurement
*meas dc Vgsp_at_Vcm when vout=Vcm
*print Vgsp_at_Vcm

* Write Data
*unset appendwrite
*set wr_vecnames
*set wr_singlescale
*wrdata ../plot_simulations/data/nmos_current_mirror2_tb_dc.txt v(vin) v(vout)

*quit
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt

**** end user architecture code
**.ends

* expanding   symbol:  nmos_current_mirror2.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/nmos_current_mirror2.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/nmos_current_mirror2.sch
.subckt nmos_current_mirror2 i_out1 i_in VSS i_out2
*.ipin i_in
*.opin i_out1
*.iopin VSS
*.opin i_out2
XM1 i_out1 i_in VSS VSS sg13_hv_nmos w=5.0u l=5.0u ng=1 m=1 mm_ok=1
XM2 i_in i_in VSS VSS sg13_hv_nmos w=5.0u l=5.0u ng=1 m=1 mm_ok=1
XM3 i_out2 i_in VSS VSS sg13_hv_nmos w=20.0u l=5.0u ng=5 m=1 mm_ok=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
